US04435566
1.6 g of benzyl chloride was added dropwise to a mixture of 3 g of 4-morpholino-2-piperazino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine, 4 g of potassium carbonate and 30 ml of N,N-dimethylformamide at room temperature under stirring, followed by stirring for 5 hours. The reaction solution was extracted with ethyl acetate, and the extract was washed with water and dried. The solvent was then distilled off and the resulting crystals were recrystallized from a mixture of diethyl ether-petroleum ether to obtain 3.1 g (82% yield) of 2-(N-benzylpiperazino)-4-morpholino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine as pale yellow prisms having a melting point of 125° C.

reactant | benzyl chloride | 1.6 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | 4-morpholino-2-piperazino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 3 g | O1CCN(CC1)C=1C2=C(N=C(N1)N1CCNCC1)CCCS2 | C15H23N5OS
reactant | potassium carbonate | 4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | 2-(N-benzylpiperazino)-4-morpholino-7,8-dihydro-6H-thiopyrano[3,2-d]pyrimidine | 3.1 g, 82% yield | C(C1=CC=CC=C1)N1CCN(CC1)C=1N=C(C2=C(N1)CCCS2)N2CCOCC2 | C22H29N5OS
